US06313122B1
Preparation of N1-(4-methoxybenzoyl)-N2-(1-phenylsulfonylpiperidin-4-ylcarbonyl)-1,2-benzenediamine
A solution of N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (41 mg, 0.12 mmol) and pyridine (0.05 mL) in methylene chloride (3 mL) was treated with benzenesulfonyl chloride (0.014 mL, 0.11 mmol). After 20 h, the mixture was treated with silica gel (3 cm3) and concentrated in vacuo. The residue was chromatographed (silica gel, 50% hexanes/50% ethyl acetate to 30% hexanes/70% ethyl acetate). Recrystallization of the residue from hexanes/ethyl acetate yielded 39 mg (68%) of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.12 mmol, 41 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | pyridine | 0.05 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 0.11 mmol, 0.014 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | N1-(4-methoxybenzoyl)-N2-(1-phenylsulfonylpiperidin-4-ylcarbonyl)-1,2-benzenediamine | 39 mg, 68% | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)S(=O)(=O)C2=CC=CC=C2)C=C1 | C26H27N3O5S
